US07781438B2
Preparation of (6-Chloro-3-methyl-quinoxalin-5-yl)-acetic acid methyl ester
NaOMe (5.4 M in MeOH, 8.3 ml, 44.71 mmol, 4.5 equiv) was added at room temperature to a solution of 7-chloro-2-methyl-8-(2,2,2-trichloro-ethyl)-quinoxaline (3.08 g, 9.94 mmol) in methanol (24 ml). The reaction mixture was heated to 70° C. for 3 hours. After cooling to 0° C., sulfuric acid (4.7 ml) dissolved in methanol (20 ml) was added, and the reaction mixture was heated to 70° C. for one hour. After cooling and dilution with EtOAc and H2O, the mixture was filtered and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of hexane/EtOAc 100:0 to 70:30) to afford the title compound (1.14 g, 46%) as a solid. 1H NMR (400 MHz, CDCl3): δ=8.70 (s, 1H), 7.95 (d, J=9.1 Hz, 1H), 7.69 (d, J=9.1 Hz, 1H), 4.48 (s, 2H), 3.70 (s, 3H), 2.74 (s, 3H). MS (ES+): 251.1 (M+H)+.

reactant | NaOMe | 44.71 mmol, 5.4 M, 8.3 ml, 4.5 equiv | C[O-].[Na+]
reactant | 7-chloro-2-methyl-8-(2,2,2-trichloro-ethyl)-quinoxaline | 9.94 mmol, 3.08 g | ClC1=CC=C2N=CC(=NC2=C1CC(Cl)(Cl)Cl)C | C11H8Cl4N2
reactant | sulfuric acid | 4.7 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 24 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | (6-Chloro-3-methyl-quinoxalin-5-yl)-acetic acid methyl ester | 1.14 g, 46% | COC(CC1=C2N=C(C=NC2=CC=C1Cl)C)=O | C12H11ClN2O2
